US09193707B2
1. Synthesis of 2-[4-(dimethylamino)phenyl]quinazolin-4-ol
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 2-aminobenzamide (1.36 g, 9.99 mmol, 1.00 equiv) in dimethylacetamide (25 mL), 4-(dimethylamino)benzaldehyde (1.49 g, 9.99 mmol, 1.00 equiv) and sulfonylideneoxidane sodium (1.6 g, 15.53 mmol, 1.50 equiv). The resulting solution was stirred overnight at 150° C. in an oil bath. The reaction mixture was cooled to 25° C. The resulting solution was diluted with 100 mL of water. The solids were collected by filtration. The solid was washed with 2×20 mL of water and 1×20 mL of petroleum ether. This resulted in 2.1 g (79%) of 2-[4-(dimethylamino)phenyl]quinazolin-4-ol as a gray solid. MS (ESI) m/z 266 ([M+H]+).

reactant | 2-aminobenzamide | 9.99 mmol, 1.36 g, 1.00 equiv | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | 4-(dimethylamino)benzaldehyde | 9.99 mmol, 1.49 g, 1.00 equiv | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | sulfonylideneoxidane sodium | 15.53 mmol, 1.6 g, 1.50 equiv | [Na].S(=O)(=O)=O
solvent | dimethylacetamide | 25 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 100 mL | O | H2O
product | 2-[4-(dimethylamino)phenyl]quinazolin-4-ol | CN(C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)O)C | C16H15N3O
